US07622508B2
b. Synthesis of acetic acid [benzyl-(2-oxo-ethyl)carbamoyl]methyl ester
Acetic acid [benzyl-(2-hydroxyethyl)carbamoyl]methyl ester (1.28 g, 5.10 mmol) was weighed into a 200 mL round bottom flask and purged with nitrogen. Dichloromethane (50 mL) was added, and the reaction was cooled to −15° C. for 10 minutes. Dimethylsulfoxide (3.61 mL, 51.0 mmol.), N,N-diisopropylethylamine (4.43 mL, 25.5 mmol), and pyridine sulfur trioxide complex (4.06 g, 25.5 mmol) were then added sequentially at −15° C. The reaction was allowed to warm slowly to room temperature and stirred overnight. The reaction was complete by thin layer chromatography, and was diluted with ethyl acetate. The organic solution was washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The organic layer was separated and dried over anhydrous magnesium sulfate. The drying agent was removed via filtration and solvent was removed in vacuo to give crude title compound as a yellow oil. The crude material was chromatographed on silica gel using 1:1 ethyl acetate:dichloromethane as the mobile phase. Fractions were combined and solvent was removed in vacuo to give pure title compound as a colorless oil (0.72 g, 57% yield). (m/z): [M+H]+ calcd for C13H15NO4 250.11, found 250.0.

reactant | Acetic acid [benzyl-(2-hydroxyethyl)carbamoyl]methyl ester | 5.10 mmol, 1.28 g | C(C1=CC=CC=C1)N(C(=O)COC(C)=O)CCO | C13H17NO4
reactant | Dimethylsulfoxide | 51.0 mmol, 3.61 mL | CS(=O)C | C2H6OS
reactant | N,N-diisopropylethylamine | 25.5 mmol, 4.43 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | acetic acid [benzyl-(2-oxo-ethyl)carbamoyl]methyl ester | 0.72 g, 57% yield | C(C1=CC=CC=C1)N(C(=O)COC(C)=O)CC=O | C13H15NO4
